### ISSUE TITLE
Erdős problem 480 trivial proof

### ISSUE THREAD

**Issue by plby** [google-deepmind/formal-conjectures#1282]
### Describe the misformalization
This issue concerns Erdős problem 480, available at https://www.erdosproblems.com/480

Aristotle (from Harmonic) found a simple proof of the conjecture by setting n = 0.

The current statement https://github.com/google-deepmind/formal-conjectures/blob/f33f5ddb49f6077e34025917965bcd1bbd920d73/FormalConjectures/ErdosProblems/480.lean#L27-L37 assumes that m ≠ 0 but meant to say n ≠ 0.

### Trivial proof/disproof

https://github.com/plby/lean-proofs/blob/e23a8884095b13506a3dd297b58d60d6335f1637/src/v4.24.0/ErdosProblems/Erdos480x.lean#L22-L29

```
import Mathlib

theorem misformalized_erdos_480 :
  (∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x m| ≤ 1 / (√5 * n))}.Infinite) := by
  -- Let's choose any $x \in \ell^\infty$.
  intro x hx;
  refine Set.infinite_of_injective_forall_mem ( fun m n hmn => by aesop ) fun m => ⟨ m + 1, 0, ?_, ?_, rfl ⟩ <;> norm_num
```

### Suggested fix
Change m ≠ 0 to n ≠ 0.

### Additional context
There was a little bit of interaction here with the "garbage" value 1/0 = 0 in Mathlib, which could have helped spot the error.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

**Comment by plby** [comment]
When I worked at Google, I had a badge on Moma for a "one-bit bugfix".  I think this bugfix is one character and the characters are even adjacent (m->n), but sadly because of the ASCII details involved, I think it changes the **two** lowest-order bits.
